US05013733
N-(1-Azabicyclo[2.2.2]oct-3-yl)-1-methyl-1H-indole-2-ethanamine
To a solution of N-(1-azabicyclo[2.2.2]oct-3-yl)-1-methyl-1H-indole 2-acetamide (1.4 g) in dry THF (30 ml) under nitrogen was added borane (1M solution in THF; 30 ml), and the mixture was heated under reflux for 3 h and then cooled in ice. Methanol (10 ml) was added dropwise followed by 5M hydrochloric acid (50 ml), and the mixture was then heated at reflux for 4 h. The cooled solution was poured into 2M sodium hydroxide solution (200 ml), and the mixture was extracted with ethyl acetate (2x200 ml). The combined, dried organic extracts were evaporated in vacuo to give an oil which was dissolved in dry THF (45 ml). 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (1.13 g) was added slowly in small portions over 15-20 min and the resulting suspension was stirred for 30 min. The mixture was diluted with ethyl acetate (250 ml) and washed with 2M sodium hydroxide solution (2x250 ml). The organic layer was dried and evaporated in vacuo to give a gum which was purified by FCC eluting with System A (75:8:1) to give the title compound (354 mg) as an oil, t.l.c. (System A,75:8:1) Rf 0.24.

reactant | N-(1-azabicyclo[2.2.2]oct-3-yl)-1-methyl-1H-indole 2-acetamide | 1.4 g | N12CC(C(CC1)CC2)NC(CC=2N(C1=CC=CC=C1C2)C)=O | C18H23N3O
reactant | borane | 1M, 30 ml | B | BH3
reactant | hydrochloric acid | 5M, 50 ml | Cl | ClH
reactant | sodium hydroxide | 2M, 200 ml | [OH-].[Na+]
reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 1.13 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | Methanol | 10 ml | CO | CH4O
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-1-methyl-1H-indole-2-ethanamine | 354 mg | N12CC(C(CC1)CC2)NCCC=2N(C1=CC=CC=C1C2)C | C18H25N3
